US05731322
N,N-Diisopropyl-2-phenylhydrazono-3-oxobutyramide
7.0 g (0.038 mol) of N,N-diisopropyl-3-oxobutyramide, a solution of 5.3 g (0.133 mol) of NaOH in 58 ml of water and 0.04 mol of phenyldiazonium chloride were treated as described in preparation 8. The crude reaction mixture was purified by chromatography on silica gel (hexane/Et2O 95:5) obtaining 7.5 g of the title compound which was used as such in the subsequent step. M.p.=143°-145° C.

reactant | N,N-diisopropyl-3-oxobutyramide | 0.038 mol, 7.0 g | C(C)(C)N(C(CC(C)=O)=O)C(C)C | C10H19NO2
reactant | NaOH | 0.133 mol, 5.3 g | [OH-].[Na+]
reactant | phenyldiazonium chloride | 0.04 mol | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | water | 58 ml | O | H2O
product | N,N-Diisopropyl-2-phenylhydrazono-3-oxobutyramide | 7.5 g | C(C)(C)N(C(C(C(C)=O)=NNC1=CC=CC=C1)=O)C(C)C | C16H23N3O2
